Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15],4.3519366657
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-5.33856868304
[C:3]([H:4])#[C:5][O:6].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])=[C:5]=[O:6],-1.35449577684
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])[H:10]>>[C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])[H:10].[H:1],3.94628748181
[O:1][C@:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],0.273013909967
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:3],2.26343746425
[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-4.02027849841
[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8],6.413495971980001
[C:2](#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.80847647391
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1].[O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],4.63979221619
[H:10].[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]#[C:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-2.75997747235
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9]=[C:10]([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],-2.81663766781
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.32197861
[H:1][C:2]=[C:10]([O:9][C:4](=[C:3])[C:5]([H:6])([H:7])[H:8])[H:11]>>[H:1][c:2]1[c:3][c:4]([C:5]([H:6])([H:7])[H:8])[o:9][c:10]1[H:11],-4.83167274992
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[H:1][C:2][O:3][C:4]([H:5])[H:6].[O:7][C:8]#[C:9][H:10],2.13872152488
[H:14].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.531812830340001
[C:1]#[C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10].[C:4][O:5][H:6],3.17001566314
[H:1].[O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.5824994202800005
[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.11543857914
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:9][H:10].[H:8],1.55927796565
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],4.94432101292
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C@@:4]1([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13],-0.25477895524
[C:1]/[C:2](=[C:3](\[H:4])[O:5][O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2](=[C:3](\[H:4])[O:5][O:6])\[C:7]([H:8])([H:9])[H:10],5.518744943200001
[H:1][C:2]([C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])[H:7].[H:1][C:2]([C:3](=[C:4])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],7.55693528148
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-0.25628539037
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14].[H:5],4.87517440671
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[H:9].[H:5],4.74239037921
[H:1][C:2]([H:3])[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:2][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:4][H:3],7.35993185334
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:10].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])=[O:9],3.30170168926
[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-3.3992302531800003
